US05240925
b. Preparation of 1-[2-Cyano-2-(2-methoxyphenyl)-3-(tetrahydrofuran-2-yl)propyl]-1,2,4-triazole
This compound was prepared using the procedure described in Example 2b except using 27.0 g. (0.110 mole) of 2-(2-methoxyphenyl)-3-(tetrahydropyran-2-yl)propionitrile, 6.6 g. (0.165 mole) of 60% sodium hydride which had been washed with hexane to remove the mineral oil originally present, 19 g. (0.165 mole) of 1-(chloromethyl)-1,2,4-triazole, and 400 ml. of a 1 to 1 mixture of DMSO and DMF. The 1-[2-cyano-2-(2-methoxyphenyl)-3-(tetrahydropyran-2-yl)propyl]-1,2,4-triazole, 20.0 g. (56% yield), was obtained as a solid, melting point 120°-121° C.

reactant | 2-(2-methoxyphenyl)-3-(tetrahydropyran-2-yl)propionitrile | 0.110 mole | COC1=C(C=CC=C1)C(C#N)CC1OCCCC1 | C15H19NO2
reactant | sodium hydride | 0.165 mole | [H-].[Na+]
reactant | 1-(chloromethyl)-1,2,4-triazole | 0.165 mole | ClCN1N=CN=C1 | C3H4ClN3
reactant | 1-[2-cyano-2-(2-methoxyphenyl)-3-(tetrahydropyran-2-yl)propyl]-1,2,4-triazole | C(#N)C(CN1N=CN=C1)(CC1OCCCC1)C1=C(C=CC=C1)OC | C18H22N4O2
solvent | hexane | CCCCCC | C6H14
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[2-Cyano-2-(2-methoxyphenyl)-3-(tetrahydrofuran-2-yl)propyl]-1,2,4-triazole | 56% yield | C(#N)C(CN1N=CN=C1)(CC1OCCC1)C1=C(C=CC=C1)OC | C17H20N4O2
